US07776869B2
In a 25-mL RBF (S)-tert-butyl 1-(2-(2-fluoro-5-iodobenzamido)-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate (0.496 g, 0.80 mmol), 5-ethynylpyrimidin-2-amine (0.19 g, 1.6 mmol), Bis(triphenylphosphine)palladium(II) dichloride (0.028 g, 0.040 mmol), and Copper(I) iodide (0.0076 g, 0.040 mmol) were taken up in CH3CN and Triethylamine (1.7 ml, 12 mmol) was added, and the tube was flushed with nitrogen. The tube was sealed and the reaction heated to 70 deg. C. for 16 h. The reaction was cooled and transfered to a larger flask with EtOAc and concentrated in vacuo. The solid was adsorbed onto 4 g silica gel from 10% MeOH/MC purified by Isco {Redi-Sep® pre-packed silica gel column (80 g); eluent 0-75% EtOAc/hexanes over 30 min}. Product-containing fractions were concentrated to afford (S)-tert-butyl 1-(2-(5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluorobenzamido)-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate as a orange foam. MS m/z=613 [M+H]+. Calc'd for C31H32F4N6O3: 612.

reactant | (S)-tert-butyl 1-(2-(2-fluoro-5-iodobenzamido)-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate | 0.80 mmol, 25-mL, 0.496 g | FC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2C[C@H](CCC2)N(C(OC(C)(C)C)=O)C)C=C(C=C1)I | C25H28F4IN3O3
reactant | 5-ethynylpyrimidin-2-amine | 1.6 mmol, 0.19 g | C(#C)C=1C=NC(=NC1)N | C6H5N3
reactant | Triethylamine | 12 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | CH3CN | CC#N | C2H3N
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 0.040 mmol, 0.028 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Copper(I) iodide | 0.040 mmol, 0.0076 g | [Cu]I
product | (S)-tert-butyl 1-(2-(5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluorobenzamido)-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate | NC1=NC=C(C=N1)C#CC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2C[C@H](CCC2)N(C(OC(C)(C)C)=O)C)C1)F | C31H32F4N6O3
